US05633379
4 ml of a 30% hydrogen peroxide solution are added dropwise at room temperature to 3.8 g (16.7 mmol) of 6-chloro-4-nitro-indoline-2,3-dione in 60 ml of sodium hydroxide solution. The mixture is stirred for 2 hours at room temperature, acidified to pH 2 to 3 with 4N hydro-chloric acid, filtered and dried. 3.18 g (87.8% of theory) of 4-chloro-6-nitro-anthranilic acid having a melting point of 202°-205° are obtained.

reactant | hydrogen peroxide | OO | H2O2
reactant | 6-chloro-4-nitro-indoline-2,3-dione | 16.7 mmol | ClC1=CC(=C2C(C(NC2=C1)=O)=O)[N+](=O)[O-] | C8H3ClN2O4
reactant | hydro-chloric acid | 4N | Cl | ClH
solvent | sodium hydroxide | 60 ml | [OH-].[Na+]
product | 4-chloro-6-nitro-anthranilic acid | 3.18 g, 87.8% | ClC=1C=C(C(C(=O)O)=C(C1)[N+](=O)[O-])N | C7H5ClN2O4
